US08183264B2
(3-(4-Benzyloxy-phenyl)-prop-1-ynyl)-trimethyl-silane
To a solution of THF (20 mL) and trimethylsilylacetylene (850 μL) was added ethyl magnesium bromide (3M diethyl ether solution, 1.9 mL) at room temperature under a nitrogen atmosphere, which was stirred for 40 minutes at 65° C. The reaction solution was cooled to room temperature, after which copper(I) bromide (310 mg) and 4-benzyloxybenzyl chloride (81.0 g) were added to the reaction solution, which was stirred for 8 hours and 45 minutes at 65° C. A saturated aqueous ammonia chloride solution was added at room temperature to the reaction solution, which was then extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (heptane:ethyl acetate=30:1) to obtain the titled compound (910 mg).

reactant | trimethylsilylacetylene | 850 μL | C[Si](C)(C)C#C | C5H10Si
reactant | ethyl magnesium bromide | 3M, 1.9 mL | C(C)[Mg]Br
reactant | 4-benzyloxybenzyl chloride | 81.0 g | C(C1=CC=CC=C1)OC1=CC=C(CCl)C=C1 | C14H13ClO
reactant | ammonia chloride | [Cl-].N
catalyst | copper(I) bromide | 310 mg | [Cu]Br
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (3-(4-Benzyloxy-phenyl)-prop-1-ynyl)-trimethyl-silane | 910 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC#C[Si](C)(C)C | C19H22OSi
